US06384065B1
In 50 ml of methylene chloride were dissolved 2.40 g of (3R)-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-carboxylic acid and 2.23 ml of triethylamine. To the solution thus obtained was dropwise added 1.41 g of benzoyl chloride at 0-5° C., and the resulting mixture was stirred at the same temperature as above for 3 hours. The reaction mixture was poured into ice water, pH was adjusted to 1.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Ethyl ether was added to the residue thus obtained, and the deposited crystal was collected by filtration. Thus, 2.10 g of (3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-carboxylic acid was obtained as a colorless crystalline product.

reactant | (3R)-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-carboxylic acid | 2.40 g | C(C)(C)C1=CC=C(OC2CCC3(N[C@@H](CS3)C(=O)O)CC2)C=C1 | C18H25NO3S
reactant | triethylamine | 2.23 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.41 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-carboxylic acid | 2.10 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(C)C)C(=O)O | C25H29NO4S
